US04855377
391 g (3.32 moles) of 1,6-hexanediol, 5976 g (66.4 moles) of dimethyl carbonate and 0.2 g (0.00067 mole) of dibutyltin methoxide were charged in an autoclave. The mixture was heated at 220° C. for 3 hours to advance a reaction. After completion of the reaction, the dimethyl carbonate was removed by evaporation under reduced pressure to obtain a 1,6-hexanediol bismethylcarbonate. The yield of 1,6-hexanediol bismethylcarbonate was 98.0%. A 1,5-pentanediol bismethylcarbonate was also obtained in substantially the same manner as mentioned above except that 1,5-pentane diol was used instead of 1,6-hexane diol.

reactant | 1,6-hexanediol | 3.32 moles, 391 g | C(CCCCCO)O | C6H14O2
reactant | dimethyl carbonate | 66.4 moles, 5976 g | C(OC)(OC)=O | C3H6O3
reactant | dibutyltin methoxide | 0.00067 mole, 0.2 g | C[O-].C(CCC)[Sn+2]CCCC.C[O-]
product | 1,6-hexanediol bismethylcarbonate | C(CCCCCO)O.COC(OC)=O | InChI=1S/C6H14O2.C3H6O3/c7-5-3-1-2-4-6-8;1-5-3(4)6-2/h7-8H,1-6H2;1-2H3
